US08871756B2
(2S)-2-Amino-4-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]butan-1-ol
To the solution of tert-butyl (4S)-2,2-dimethyl-4-{2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethyl}-1,3-oxazolidine-3-carboxylate (340 mg, 0.68 mmol) in ethyl acetate was introduced hydrochloric acid gas for 30 minutes. After being stirred at room temperature overnight, the reaction was poured into ice-water then neutralized with saturated sodium carbonate. The organic layer was separated, dried over sodium sulfate, and then concentrated in vacuo to give the product. It was used in next step without further purification. MS obsd. (ESI+) [(M+H)+] 362.

reactant | tert-butyl (4S)-2,2-dimethyl-4-{2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethyl}-1,3-oxazolidine-3-carboxylate | 0.68 mmol, 340 mg | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)CCC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2)C | C31H39N3O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-2-Amino-4-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]butan-1-ol | N[C@H](CO)CCC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C23H27N3O
